US05459138
Stage G: 3-Amino-5-methylpyridine-2-sulfonamide
3.46 g of reduced iron and 0.53 g of ammonium chloride are added to a solution of 2.17 g of 5-methyl-3- nitropyridine-2-sulfonamide in 60 cm3 of water/alcohol (EtOH/H2O : 1/1) solution. The mixture is brought to reflux for 20 minutes and then filtered while hot. The filtrate is concentrated to a small volume and left at 4° C. for 12 hours. The crystalline precipitate obtained is collected on a filter, washed with water and dried.

reactant | ammonium chloride | 0.53 g | [Cl-].[NH4+]
reactant | 5-methyl-3- nitropyridine-2-sulfonamide | 2.17 g | CC=1C=C(C(=NC1)S(=O)(=O)N)[N+](=O)[O-] | C6H7N3O4S
product | 3-Amino-5-methylpyridine-2-sulfonamide | NC=1C(=NC=C(C1)C)S(=O)(=O)N | C6H9N3O2S
